US03974212
Step D: 2-Methyl-2-isopropyl-5-methoxy-6,7-dichloro-1-indanone
A stirred suspension of 2-isopropyl-5-methoxy-6,7-dichloro-1-indanone (7.3 g., 0.025 mole) and sodium hydride (810 mg., 0.028 mole) in anhydrous 1,2-dimethoxyethane (250 ml.) is heated in an inert atmosphere at 80°-85°C. for 1 hour, cooled to 30°C. and treated with methyl iodide (6 ml.). The reaction mixture is heated to 80°C. then the solvent is distilled at reduced pressure and the residue poured into ice water. The 2-methyl-2-isopropyl-5-methoxy-6,7-dichloro-1-indanone which separates (7.0 g.) melts at 143°C. after recrystallization from ethanol-water.

reactant | 2-isopropyl-5-methoxy-6,7-dichloro-1-indanone | 0.025 mole, 7.3 g | C(C)(C)C1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C13H14Cl2O2
reactant | sodium hydride | 0.028 mole, 810 mg | [H-].[Na+]
reactant | methyl iodide | 6 ml | CI | CH3I
solvent | 1,2-dimethoxyethane | 250 ml | COCCOC | C4H10O2
product | 2-Methyl-2-isopropyl-5-methoxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C(C)C | C14H16Cl2O2
